US06228870B1
To a suspension of 3-bromopropylamine hydrobromide (5.0 g, 0.023 mol) and di-tert-butyl dicarbonate (5.0 g, 0.023 mol) in methylene chloride (125 ml), cooled to 0° C. was added triethylamine (3.2 ml, 0.023 mol). The reaction mixture was stirred for 3 hours at room temperature, diluted with methylene chloride and washed with water×2 and brine. Drying and solvent evaporation gave 3-bromo-1-tert-butoxycarbonylpropylamine.

reactant | 3-bromopropylamine hydrobromide | 0.023 mol, 5.0 g | Br.BrCCCN
reactant | di-tert-butyl dicarbonate | 0.023 mol, 5.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.023 mol, 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-tert-butoxycarbonylpropylamine | BrCCC(C(=O)OC(C)(C)C)N | C8H16BrNO2
